US05155116
Preparation 1: 3H-Oxazolo[4,5-b]pyridin-2-one* (See Appendix)
5.5 g (0.05 mol) of 2-amino-3-hydroxypyridine are introduced into a three-necked flask and the system is placed under argon. 100 ml of anhydrous tetrahydrofuran (THF) are added. 12.15 g (0.075 mol) of 1,1-carbonyldiimidazole are then introduced. The mixture is heated to reflux for 5 hours (under argon). The THF is then evaporated off. The residue is taken up with dichloromethane. Washes of the organic phase are performed with NaOH solution (5%) (6×150 ml); the cyclized product passes into the aqueous phase and is precipitated at a pH in the region of 5 (by adding 2N hydrochloric acid solution). The product is filtered off and stored in a desiccator.

reactant | 2-amino-3-hydroxypyridine | 0.05 mol, 5.5 g | NC1=NC=CC=C1O | C5H6N2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3H-Oxazolo[4,5-b]pyridin-2-one | O1C(NC2=NC=CC=C21)=O | C6H4N2O2
